US06417362B1
4-Methoxybenzylamine (8.3 g) was added to homophthalic anhydride (8.1 g). The mixture was stirred at 180° C. overnight. Water was added to the reaction solution. The mixture was then extracted with ethyl acetate. The organic layer was then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=8:2) to give 2-(4-methoxybenzyl)-4H-isoquinoline-1,3-dione (11.8 g).

reactant | 4-Methoxybenzylamine | 8.3 g | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | homophthalic anhydride | 8.1 g | C1(CC=2C(C(=O)O1)=CC=CC2)=O | C9H6O3
solvent | Water | O | H2O
product | 2-(4-methoxybenzyl)-4H-isoquinoline-1,3-dione | 11.8 g | COC1=CC=C(CN2C(C3=CC=CC=C3CC2=O)=O)C=C1 | C17H15NO3
